US07655680B2
Sodium borohydride (20 mg, 0.53 mmol) was added to a mixed solution of 3-[2-(3,4-diethoxyphenyl)thiazole-4-yl]-1-(2-methoxyphenyl)-1-propanone (458 mg, 1.11 mmol) in THF (10 ml) and methanol (10 ml) at room temperature, and the resulting mixture was stirred at the same temperature for 1 hour. A saturated aqueous ammonium chloride solution was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: ethyl acetate/n-hexane=2/1). The solvent was distilled off under reduced pressure, and the residue was recrystallized from a diethyl ether/n-hexane mixed solvent, to thereby obtain 336 mg (yield: 73%) of 3-[2-(3,4-diethoxyphenyl)thiazole-4-yl]-1-(2-methoxyphenyl)-1-propanol as a white powder.

reactant | Sodium borohydride | 0.53 mmol, 20 mg | [BH4-].[Na+]
reactant | 3-[2-(3,4-diethoxyphenyl)thiazole-4-yl]-1-(2-methoxyphenyl)-1-propanone | 1.11 mmol, 458 mg | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)CCC(=O)C1=C(C=CC=C1)OC | C23H25NO4S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | methanol | 10 ml | CO | CH4O
product | 3-[2-(3,4-diethoxyphenyl)thiazole-4-yl]-1-(2-methoxyphenyl)-1-propanol | 336 mg, yield: 73% | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)CCC(O)C1=C(C=CC=C1)OC | C23H27NO4S
